US04637821
Preparation of 3-β-aminoethylamino-4-nitrophenol hydrochloride
0.432 mol (75 g) of 3-chloro-4-nitrophenol is introduced into 282 ml of ethylenediamine and the reaction mixture is heated on a boiling waterbath for 13 hours. The cooled solution is then poured into 2.6 liters of ice-water to which 1.09 liters of hydrochloric acid (d=1.18) have been added. After the mixture has been cooled to -10° C. for a few hours, 3-β-aminoethylamino-4-nitrophenol hydrochloride crystallises. It is filtered off with suction and washed with an ice-cold 2N hydrochloric acid solution and then with ethanol. After recrystallisation from water, the dried product melts, with decomposition, at a temperature above 260° C.

reactant | 3-chloro-4-nitrophenol | 0.432 mol, 75 g | ClC=1C=C(C=CC1[N+](=O)[O-])O | C6H4ClNO3
reactant | ethylenediamine | 282 ml | C(CN)N | C2H8N2
solvent | hydrochloric acid | 1.09 liters | Cl | ClH
product | 3-β-aminoethylamino-4-nitrophenol hydrochloride | Cl.NCCNC=1C=C(C=CC1[N+](=O)[O-])O | InChI=1S/C8H11N3O3.ClH/c9-3-4-10-7-5-6(12)1-2-8(7)11(13)14;/h1-2,5,10,12H,3-4,9H2;1H
